US04476307
1-(3-Methylphenyl)-3-(1-dimethylaminoethylidene)-2(1H,3H)-indolone
Using a reaction time of 18 hours at reflux and crystallizing the product from hexane after chromatography, 3-(1-dimethylaminoethylidene)-2(1H,3H)-indolone (4.06 g, 20 mmoles) was converted to present title product, 0.45 g, m.p. 96°-99°.

reactant | 3-(1-dimethylaminoethylidene)-2(1H,3H)-indolone | 20 mmoles, 4.06 g | CN(C(C)=C1C(NC2=CC=CC=C12)=O)C | C12H14N2O
solvent | hexane | CCCCCC | C6H14
product | 1-(3-Methylphenyl)-3-(1-dimethylaminoethylidene)-2(1H,3H)-indolone | CC=1C=C(C=CC1)N1C(C(C2=CC=CC=C12)=C(C)N(C)C)=O | C19H20N2O
